US07576108B2
b: (4-Methyl-pentyl)-triphenyl-phosphonium bromide
Dissolve 1-bromo-3,3-dimethylbutane(9.6 g, 58.15 mmol) in toluene, add triphenyl-phosphine (13.8 g, 55.2 mmol) and stir at 80° C. for 4 days in a scewcapglass and 3 days in an autoklav at 4 bar and 190° C. Cool the reaction mixture down to room temperature and isolate the product by crystallization in ether as a white solid (9.8 g). MS (m/e): 347 (M+H).

reactant | 1-bromo-3,3-dimethylbutane | 58.15 mmol, 9.6 g | BrCCC(C)(C)C | C6H13Br
reactant | triphenyl-phosphine | 55.2 mmol, 13.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | (4-Methyl-pentyl)-triphenyl-phosphonium bromide | [Br-].CC(CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C24H28P.BrH/c1-21(2)13-12-20-25(22-14-6-3-7-15-22,23-16-8-4-9-17-23)24-18-10-5-11-19-24;/h3-11,14-19,21H,12-13,20H2,1-2H3;1H/q+1;/p-1
